US07390904B2
Bis(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl) sebacate
A solution of 0.308 g (1.14 g) of ferric chloride hexahydrate and 0.225 g (3.75 mmol) of glacial acetic acid in 5 ml of water is added to a mixture of 10.00 g (19.6 mmol) of bis(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl) sebacate, 94 ml of acetonitrile, and 64 ml of n-octane that is heated to 76° C. The reaction mixture is kept at the reflux temperature of 76° as a solution of 11.52 g (169 mmol) of 50% aqueous hydrogen peroxide is added dropwise over 3 hours. A solution of 0.106 g of ferric chloride hexahydrate and 0.102 g of glacial acetic acid in 1.6 g of water is added to the reaction mixture 1.75 hours after the peroxide addition is begun. A solution of 0.106 g of ferric chloride hexahydrate and 0.073 g of glacial acetic acid in 1.6 g of water is added to the reaction mixture 2.75 hours after the peroxide addition is begun. The reaction mixture is maintained at the reflux temperature for 1 hour after the peroxide is added. Excess peroxide is decomposed by stirring the reaction mixture with aqueous sodium sulfite solution. Solids are removed by filtration. The aqueous layer of the filtrate is extracted with ethyl acetate. The combined organic layers are concentrated, and the concentrate is purified twice by flash chromatography with a 100:7.5 mixture of heptane-ethyl acetate to afford 4.43 g (31% yield) of the title compound, a colorless liquid. NMR analysis shows a mixture of octyl regioisomers.

reactant | bis(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl) sebacate | 19.6 mmol, 10.00 g | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)O)(C)C)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C28H52N2O6
reactant | n-octane | 64 ml | CCCCCCCC | C8H18
reactant | hydrogen peroxide | 169 mmol, 11.52 g | OO | H2O2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 5 ml | O | H2O
solvent | water | 1.6 g | O | H2O
solvent | water | 1.6 g | O | H2O
solvent | acetic acid | 0.073 g | C(C)(=O)O | C2H4O2
solvent | acetic acid | 0.102 g | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 94 ml | C(C)#N | C2H3N
solvent | acetic acid | 3.75 mmol, 0.225 g | C(C)(=O)O | C2H4O2
product | Bis(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl) sebacate | 4.43 g, 31% yield | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C44H84N2O6
